US07700609B2
4-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester
4-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid (Behringer, H.; Falkenberg, K. Chem. Ber., 1966, 99, 3309) (7.69 g, 39.19 mmol) was suspended in 120 mL 2:1 cyclohexane: dichloromethane. Tert-butyl 2,2,2-trichloroacetimidate (17.13 g, 78.38 mmol) was added in one portion, followed by boron trifluoride diethyl etherate (87.8 mg, 6.19 μmol, 0.16 mol %). The resultant slurry was stirred vigorously for 1.5 hours and a further portion of tert-butyl 2,2,2-trichloroacetimidate (8.57 g, 39.19 mmol) was added. Stirring was continued overnight. Further portions of tert-butyl 2,2,2-trichloroacetimidate (8.57 g, 39.19 mmol) were added at 1.5 hours and 3 hours and after a further 3 hours the reaction was quenched by cautious addition of solid NaHCO3 (˜1 g). Silica was added (˜80 mL) and the resulting suspension was concentrated under reduced pressure. The resulting crude mixture was purified by silica gel chromatography (20% EtOAc in hexanes on 1 L of silica) to afford the title compound as a light yellow solid (8.81 g, 89% yield). ). MS (ES+) 253. δH (CDCl3) 1.5-1.6 (9H, s), 2.2-2.3 (2H, m), 2.5-2.6 (2H, m), 3.0-3.1 (2H, m), 7.9 (1H, s).

reactant | 4-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid | 39.19 mmol, 7.69 g | O=C1CCCC=2SC(=CC21)C(=O)O | C9H8O3S
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | Tert-butyl 2,2,2-trichloroacetimidate | 78.38 mmol, 17.13 g | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | tert-butyl 2,2,2-trichloroacetimidate | 39.19 mmol, 8.57 g | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | tert-butyl 2,2,2-trichloroacetimidate | 39.19 mmol, 8.57 g | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
catalyst | boron trifluoride diethyl etherate | 6.19 μmol, 87.8 mg | B(F)(F)F.CCOCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester | 8.81 g, 89% yield | C(C)(C)(C)OC(=O)C1=CC2=C(S1)CCCC2=O | C13H16O3S
